resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.983231
R2 0 n2 0.999188
R3 0 n4 0.994873
R4 n1 n3 1.011449
R5 n1 n5 0.144824
R6 n2 n3 0.984921
R7 n2 n6 0.996307
R8 n3 n7 0.999102
R9 n4 n5 0.983278
R10 n4 n6 38.898898
R11 n5 n7 0.981112
R12 n6 n7 1.019343
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
